US08030305B2
6-iodoquinoline
Sodium iodide (4.32 g, 28.8 mmol), Copper (I) iodide (137 mg, 0.72 mmol) and N,N′-Dimethyl-cyclohexane-1,2-diamine (0.227 mL, 1.44 mmol) and 6-Bromoquinoline (3 g, 14.4 mmol) in dioxane (15 mL) were charged in a 25 mL microwave tube. The tube was flushed with Nitrogen and sealed with a Teflon septum and Nitrogen was bubbled in the solution for 10 minutes, allowing the gas to escape through a needle. After the removal of the needle, the reaction mixture was stirred at 110° C. for 15 hours. Then, the green suspension was allowed to reach room temperature, poured into ice-water and extracted with dichloromethane. The organic layer was collected, dried (MgSO4), filtered and concentrated in vacuum. The crude mixture was chromatographied over silica gel with CH2Cl2 100% and CH2Cl2/MeOH:95/5 to yield 3.56 g (97%) of 6-Todoquinoline as a light yellow solid.

reactant | Sodium iodide | 28.8 mmol, 4.32 g | [I-].[Na+]
reactant | N,N′-Dimethyl-cyclohexane-1,2-diamine | 1.44 mmol, 0.227 mL | CNC1C(CCCC1)NC | C8H18N2
reactant | 6-Bromoquinoline | 14.4 mmol, 3 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Copper (I) iodide | 0.72 mmol, 137 mg | [Cu]I
product | 6-iodoquinoline | IC=1C=C2C=CC=NC2=CC1 | C9H6IN
